US05864039
Acetaldehyde (0.32 ml) and sodium cyanoborohydride (0.36 g) were added to a solution of 4-amino-N-(1-(5-aminopentyl)piperidin-4-ylmethyl)-5-chloro-2-methoxybenzamide (1.0 g) in methanol (20 ml), and the mixture was stirred at room temperature for 1 hr. A 10% aqueous sodium hydroxide solution was added to the reaction mixture, and the mixture was extracted with chloroform. The organic layer was washed with saturated brine, dried and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (chloroform:methanol=5:1) to give 0.55 g of 4-amino-5-chloro-N-((1-(5-diethylaminopentyl)piperidin-4-yl)methyl)-2-methoxybenzamide.

reactant | Acetaldehyde | 0.32 ml | C(C)=O | C2H4O
reactant | sodium cyanoborohydride | 0.36 g | C(#N)[BH3-].[Na+]
reactant | 4-amino-N-(1-(5-aminopentyl)piperidin-4-ylmethyl)-5-chloro-2-methoxybenzamide | 1.0 g | NC1=CC(=C(C(=O)NCC2CCN(CC2)CCCCCN)C=C1Cl)OC | C19H31ClN4O2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | methanol | 20 ml | CO | CH4O
product | 4-amino-5-chloro-N-((1-(5-diethylaminopentyl)piperidin-4-yl)methyl)-2-methoxybenzamide | 0.55 g | NC1=CC(=C(C(=O)NCC2CCN(CC2)CCCCCN(CC)CC)C=C1Cl)OC | C23H39ClN4O2
